US04792570
2,6-dimethyl-4-methoxybiphenyl (3.0 g), acetic acid (30 ml) and 48% aqueous hydrobromic acid (30 ml) were heated at reflux temperature for 4 hours. The mixture was then cooled, poured into water and extracted with ether. After extracting the organic solution with aqueous sodium hydroxide, the aqueous extract was acidified with aqueous hydrochloric acid and further extracted with ether. The resulting extract was dried and evaporated and the residue was recrystallized from acetone/hexane to afford 2,6-dimethyl-4-hydroxybiphenyl, mp 128°-130° C.

reactant | 2,6-dimethyl-4-methoxybiphenyl | 3.0 g | CC1=C(C(=CC(=C1)OC)C)C1=CC=CC=C1 | C15H16O
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
reactant | hydrobromic acid | 30 ml | Br | BrH
solvent | water | O | H2O
product | 2,6-dimethyl-4-hydroxybiphenyl | CC1=C(C(=CC(=C1)O)C)C1=CC=CC=C1 | C14H14O
